US04181791
440 g (2.52 moles) of p-xylylene dichloride, 637 g (4.57 moles) of anhydrous potassium carbonate and 6 liters of water were charged to a flask. The temperature was raised until refluxing began at 103° C. and this temperature was maintained for 5 hours with the contents of the flask being stirred. Approximately 3 liters of water were then removed by distillation. Upon cooling to room temperature white crystals of p-xylylene glycol appeared. The p-xylylene glycol was obtained by filtration and was recrystallised from hot water.

reactant | p-xylylene dichloride | 2.52 moles, 440 g | C1(=CC=C(C=C1)CCl)CCl | C8H8Cl2
reactant | potassium carbonate | 4.57 moles, 637 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 6 liters | O | H2O
product | p-xylylene glycol | C1(=CC=C(C=C1)CO)CO | C8H10O2
